US05061703
A. Preparation of 1-Phenyl Adamantane (I)
Heat 0.068 mol of iron(III) chloride to boiling in 20 ml of absolute benzene. Drop 0.0186 mol of 1-bromo-adamantane, dissolved in 30 ml of absolute benzene, to the solution. Then heat to boiling for 3 hrs. After cooling, pour the reaction mixture onto ice/hydrochloric acid, separate the organic phase, and extract the aqueous phase with two portions of benzene. Wash the combined organic phases with water, dry with calcium chloride, filter and evaporate to dryness under vacuum. Recrystallize the residue from methanol. (Yield: 80%).

reactant | 1-bromo-adamantane | 0.0186 mol | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
catalyst | iron(III) chloride | 0.068 mol | [Fe](Cl)(Cl)Cl
product | 1-Phenyl Adamantane | Yield: 80% | C1(=CC=CC=C1)C12CC3CC(CC(C1)C3)C2 | C16H20
